US07524837B2
2-[5-Cyclohexyl-1-(3,3-dimethyl-2-oxo-butyl)-2-oxo-1,2-dihydro-3H-1,3,4-benzotriazepin-3-yl]-N-(3-propylamino-phenyl)-acetamide
4.0M HCl in dioxan (5 ml, 20.0 mmol) was added to a solution of (3-{2-[5-cyclohexyl-1-(3,3-dimethyl-2-oxo-butyl)-2-oxo-1,2-dihydro-3H-1,3,4-benzotriazepin-3-yl]-acetylamino}-phenyl)-propyl-carbamic acid tert-butyl ester (Example 41, step a) (524 mg, 0.83 mmol) in dioxan (15 ml) at room temperature. The mixture was stirred for 2 h during which time a white precipitate formed. The solvent was evaporated, and the solid obtained was washed with Et2O, isolated by filtration and dried, to afford the hydrochloride salt of the title compound (430 mg, 91%). 1H NMR (CDCl3) 8.39 (1H, s), 7.61-7.27 (7H, m), 7.01 (1H, d), 4.69 (2H, br s), 4.60 (1H, d), 4.29 (2H, dd), 3.21 (2H, br s), 2.80 (1H, br s), 2.01-1.45 (6H, m), 1.43-1.19 (15H, m), 0.95 (3H, t). Found: C, 63.68; H, 7.65; N, 11.98%; C31H41N5O3.HCl.H2O requires: C, 63.52; H, 7.57; N, 11.95%.

reactant | HCl | 4.0M | Cl | ClH
reactant | (3-{2-[5-cyclohexyl-1-(3,3-dimethyl-2-oxo-butyl)-2-oxo-1,2-dihydro-3H-1,3,4-benzotriazepin-3-yl]-acetylamino}-phenyl)-propyl-carbamic acid tert-butyl ester | C(C)(C)(C)OC(N(CCC)C1=CC(=CC=C1)NC(CN1C(N(C2=C(C(=N1)C1CCCCC1)C=CC=C2)CC(C(C)(C)C)=O)=O)=O)=O | C36H49N5O5
solvent | dioxan | 15 ml | O1CCOCC1 | C4H8O2
solvent | dioxan | 20.0 mmol, 5 ml | O1CCOCC1 | C4H8O2
product | 2-[5-Cyclohexyl-1-(3,3-dimethyl-2-oxo-butyl)-2-oxo-1,2-dihydro-3H-1,3,4-benzotriazepin-3-yl]-N-(3-propylamino-phenyl)-acetamide | 430 mg, 91% | C1(CCCCC1)C1=NN(C(N(C2=C1C=CC=C2)CC(C(C)(C)C)=O)=O)CC(=O)NC2=CC(=CC=C2)NCCC | C31H41N5O3
